* C:\Users\mokoo\OneDrive\Documents\LTspice\BMS\BMS Testing.asc
* Generated by LTspice 24.1.10 for Windows.
R1 IN- IN+ 5m
X§U1 IN+ IN- V2 VOUT 0 V2 0 INA296A3 ;§pnba IN+)IN-)VS)OUT)GND)REF1)REF2
V2 V2 0 5
V1 IN+ 0 20V
R§Load 0 Load+ 2
.dc V1 0 25 1
* Current sense using shunt resistor and INA296A3 for bidirectional current sensing.\nOutput voltage is 5V when 10A is detected heading into the load.\nOutput is 0V when current is 10A heading towards the battery pack.
.lib C:\Users\mokoo\OneDrive\Documents\LTspice\BMS\INA296A3.lib
.backanno
.end
